US06486342B1
Scheme 2 Illustrates a Reaction Scheme for Preparing 4-[[(3,5-dimethylanilino)carbonyl]methyl]phenol, a Compound That Is Useful as a Precursor in the Preparation of Some of the Table II Compounds
A mixture of 4-hydroxyphenylacetic acid (20.0 g, 131 mmol) and 3,5-dimethylaniline (15.9 g, 131 mmol) in xylene (100 mL) was stirred for three days at 160° C. with a Dean Stark trap. The mixture was cooled to room temperature and filtered. The solid product obtained was washed with hexane (200 mL), 10% sodium bicarbonate solution (250 mL), water (200 mL), 10% hydrochloric acid (200 mL), and then water (200 mL). The beige solid was air dried to yield 27.7 g, 82.7%. mp 183-185° C.

reactant | 4-hydroxyphenylacetic acid | 131 mmol, 20.0 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | 3,5-dimethylaniline | 131 mmol, 15.9 g | CC=1C=C(N)C=C(C1)C | C8H11N
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 4-[[(3,5-dimethylanilino)carbonyl]methyl]phenol | CC=1C=C(NC(=O)CC2=CC=C(C=C2)O)C=C(C1)C | C16H17NO2
